US05073571
11-Bromoundecanoic acid (1 g, 3.77 mmol, Aldrich) was added to a solution of ethanethiol (0.279 mL, 3.77 mmol, Aldrich) and potassium hydroxide (0.486 g, 8.66 mmol) in absolute ethanol (40 mL) and refluxed for 5 hr under a nitrogen atmosphere. After cooling and acidification with HC1, solvent was removed under reduced pressure to give a white solid. The solid was dissolved in ethyl acetate and extracted with water. The organic phase was dried over sodium sulfate, filtered and the solvent removed under reduced pressure. The product was purified by silica column chromatography using increasing concentrations of ethyl acetate in hexane for elution. The product eluted at 25% ethyl acetate/hexane. Solvent was removed under reduced pressure to yield 11-(ethylthio)-undecanoic acid (76 mg, 8%), mp 58-61° C.; 1H NMR (300 MHz, CDC13) δ 1.24 (t, 3H, J=7.4, CH3), 1.20-1.40 (bm, 12 H, methylene envelope), 1.48-1.67 (bm, 4H, S-CH2 -CH2COO-CH2 -CH2), 2.33 (t, 2H, J=7.5, CH2 -COOH), 2.49 (t, 2H, J=7.4, S-CH2 -CH2), 2.51 (q, 2H, J=7.4, S-CH2 -CH2), 10.5 (br, 1H, COOH); 13C NMR (75.4 MHz, CDC13) δ 14.88, 24.70, 25.98, 28.97, 29.08, 29.24*, 29.38, 29.48, 29.69, 31.73, 34.11, 180.05; MS, m/z 246 (M+, 50), 217 (COOH(CH2)10S+, 7), 199 (100), 181 (7), 167 (7), 149 (6), 117 (7), 101 (9), 97 (9), 87 (14), 83 (18), 75 (54), 69 (29), 62 (18), 55 (37).

reactant | 11-Bromoundecanoic acid | 3.77 mmol, 1 g | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | ethanethiol | 3.77 mmol, 0.279 mL | C(C)S | C2H6S
reactant | potassium hydroxide | 8.66 mmol, 0.486 g | [OH-].[K+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-(ethylthio)-undecanoic acid | 76 mg, 8% | C(C)SCCCCCCCCCCC(=O)O | C13H26O2S
